US08431695B2
Preparation of 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(methylsulfonyl)pyrrolidin-3-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine
(5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine (40 mg, 0.098 mmol) was dissolved in tetrahydrofuran (2 mL). Methanesulfonyl chloride (18 mg, 0.127 mmol) was added to the reaction mixture followed by triethylamine (136 uL, 0.977 mmol). The suspension was stirred at rt overnight. The compound was triturated with 1:1 ether-hexanes to yield desired product (14 mg, 29%). 1H NMR (300 MHz, dichloromethane-d2) δ 7.95 (1d, 1 H), 7.80 (1s, 1 H), 7.69-7.97.64 (m, 3 H), 7.27-7.25 (m, 4 H), 7.13 (d, 1 H), 6.54 (s, 1 H) 5.61 (bs, 2 H), 5.61 (bs, 2 H), 5.52 (s, 2H), 4.05-3.90 (m, 2H), 3.60-3.35 (m, 3 H), 2.75 (s, 3 H), 2.45 (m, 1 H), 2.20 (m, 1 H); ES-MS m/z 488.3 [M+H]+, HPLC RT (min) 2.72.

reactant | 5-(2-benzyl-2H-indazol-6-yl)-7-pyrrolidin-3-ylpyrrolo[2,1-f][1,2,4]triazin-4-amine | 0.098 mmol, 40 mg | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CNCC2 | C24H23N7
reactant | Methanesulfonyl chloride | 0.127 mmol, 18 mg | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.977 mmol, 136 uL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 2 mL | O1CCCC1 | C4H8O
product | 5-(2-benzyl-2H-indazol-6-yl)-7-[1-(methylsulfonyl)pyrrolidin-3-yl]pyrrolo[2,1-f][1,2,4]triazin-4-amine | 14 mg, 29% | C(C1=CC=CC=C1)N1N=C2C=C(C=CC2=C1)C=1C=C(N2N=CN=C(C21)N)C2CN(CC2)S(=O)(=O)C | C25H25N7O2S
